Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine
 
Attending: ___.
 
Chief Complaint:
Low grade fever after dialysis
 
Major Surgical or Invasive Procedure:
Transesophageal ultrasound with conscious sedation, ruled out 
endocarditis.

 
History of Present Illness:
___ incarcerated male w/ ESRD ___ PCKD on HD with recent 
admission for E. coli bacteremia believed secondary to a line 
infection, who represents with fevers and chills at dialysis. 
Admitted on ___ for a fever of 105 with rigors at dialysis. He 
was started on vanc (14 days PTA), switched to zosyn on ___ 
(13days PTA)and had his tunnelled catheter removed. He was then 
transferred from ___ to ___ for further work up and 
management of dialysis access. On admission from ___, 
patient was treated with zosyn, which was narrowed to CTX given 
E. coli from ___ cultures sensitive to CTX and ceftaz. A new 
tunnelled HD line was placed by ___ on ___. He was discharged on 
ceftaz (10 days PTA) with a two week course to be dosed at 
dialysis. There was concern for a possible underlying source of 
persistent infection given frequent bactermia. Pt w/ h/o lumbar 
osteomyelitis, endocarditis in ___ thought to be related to PD 
he was getting at the time and has a persistent murmur. TTE was 
not pursued during prior admission as surveillance cultures at 
___ were negative and there was no stigmata of endocarditis.  
.  
On day of admission, temperature to 99.8 w/ chills at dialysis. 
Given IV vancomycin and ceftazadine after dialysis and was sent 
to ED. He denied pain at the catether site, but did endorse f/c 
and weakness. Also w/ pain in b/l ankles, knee, and hip (new) 
which he attributes to his gout, but worse pain than usual. 
Denies cough, SOB, CP, N/V/D, abdominal pain, rash, or change in 
mental status.  
.  
In the ED, initial VS were: 98.4 89 109/57 18 96%. Exam was 
notable for no tenderness, edema, discharge or erythema at the 
catheter site and for b/l hip pain. Labs were notable for WBC of 
8.4 from 3.5 at time of discharge, lactate 2.4, CRP 17.7, and 
ESR 50, He received MS contin 30 mg for pain and acetaminophen 
1000 mg for a rising temperature as well as 1L IVF. Blood cx x2 
sent. CXR was obtained which was negative for acute process but 
showed an 8 mm nodule. Pelvic plain films negative for acute 
fracture or dislocation of hips. Orthopedics consulted, will 
evaluate on the floor. VS on transfer were: 100.3 84 114/63 16 
100%.  
 
Past Medical History:
1.  Polycystic kidney disease for ___ years.
2.  Hypertension for ___ years.
3.  History of hepatitis C.  Underwent interferon treatment in 
the past.
4.  History of nephrectomy in ___ for stones.
5.  History of bladder stretching in ___ in ___ and ___.
6.  History of parathyroidectomy.
7.  Gout
8.  History of endocarditis, thought to be peritoneal 
dialysis-associated  
9.  History of lumbar osteomyelitis, thought to be peritoneal 
dialysis-associated 
 
Social History:
___
Family History:
Mother and three sisters with DM 
 
Physical Exam:
Admission PE:
VS: Tc 97.5, Tm 98.4, 110/70 76 16 99%RA  
GENERAL: Well-appearing man in NAD, comfortable, appropriate, 
leg cuffs in place.  
HEENT: NC/AT, PERRL, EOMI, sclerae anicteric, MMM, OP clear.  
NECK: lower neck scar visible, no LAD
HEART: RRR, III/VI systolic murmur loudest at LUSB w/ radiation 
to carotids, nl S1-S2; no rubs/gallops  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored. 
 
ABDOMEN: 2cm scar near umbilicus (old peritoneal dialysis site), 
Soft/NT/ND, no masses or HSM, no rebound/guarding.  
EXTREMITIES: Left ankles slightly warm to touch but no obvious 
edema; Left great toe cool, w/o edema or erythema, active ROM 
___ pain, intact passively. ___ strength in proximal lower 
extremities, left worse than right; WWP, no c/c/e, 2+ peripheral 
pulses.  
SKIN: Right tunnelled catheter site w/ clean dressing in place; 
no visible erythema, edema, discharge or TTP. Multiple tattoos. 
No Oslers nodes, splinter hemorrhages, rashes or lesions.  Graft 
in LUE without a thrill.   
BACK: mild tenderness to palpation in L5-S2 region, centrally 
and para-spinally; no point tenderness  
NEURO: Awake, A&Ox3, ___ strength in proximal lower 
extremities, left worse than right; otherwise muscle strength 
___ throughout, sensation grossly intact throughout. 

Discharge PE:
VSS Tc 98.3, 134/72, 64, 18, 97%RA
GENERAL: resting in HD bed, A+O x3, very pleasant.
HEENT: MMM, PERRL, OP clear 
HEART: RRR, ___ systolic murmur loudest at LUSB, nl S1-S2; no 
rubs/gallops
LUNGS: CTAB, with some minor crackles at lung bases bilaterally. 
NO wheezes or rhonchi. 
ABDOMEN: 2cm scar near umbilicus, Soft/NT/ND
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.  
SKIN: Right tunnelled catheter site w/ clean dressing in place, 
being used for HD; no visible erythema, edema, discharge or 
tenderness to palp. Multiple tattoos. Graft in LUE without a 
thrill. b/l ring fingers and left middle finger DIP and PIP 
joints getting stuck when flexed and "pop" when extended.
BACK: moderate tenderness to palpation in L5-S2 region, 
centrally and para-spinally; no point tenderness  
NEURO: Awake, A&Ox3. ___ ___ strength in hips bilaterally, some 
pain with use.

 
Pertinent Results:
___ 07:30AM BLOOD WBC-3.3* RBC-3.29* Hgb-10.6* Hct-30.7* 
MCV-93 MCH-32.3* MCHC-34.6 RDW-15.4 Plt ___
___ 06:25AM BLOOD WBC-3.5* RBC-3.26* Hgb-10.4* Hct-30.8* 
MCV-94 MCH-31.9 MCHC-33.8 RDW-15.3 Plt ___
___ 05:15AM BLOOD WBC-3.9* RBC-3.06* Hgb-10.0* Hct-28.7* 
MCV-94 MCH-32.7* MCHC-34.9 RDW-16.1* Plt ___
___ 06:00AM BLOOD WBC-3.4* RBC-2.91* Hgb-9.6* Hct-27.2* 
MCV-94 MCH-33.0* MCHC-35.3* RDW-16.2* Plt ___
___ 08:20PM BLOOD WBC-3.0* RBC-2.91* Hgb-9.5* Hct-27.4* 
MCV-94 MCH-32.7* MCHC-34.7 RDW-16.2* Plt ___
___ 06:43AM BLOOD WBC-4.6 RBC-2.91* Hgb-9.6* Hct-27.6* 
MCV-95 MCH-32.9* MCHC-34.7 RDW-16.3* Plt ___
___ 06:10AM BLOOD WBC-4.2 RBC-2.79* Hgb-9.3* Hct-26.8* 
MCV-96 MCH-33.1* MCHC-34.5 RDW-16.5* Plt ___
___ 08:39PM BLOOD WBC-8.4# RBC-3.00* Hgb-9.8* Hct-29.0* 
MCV-96 MCH-32.7* MCHC-33.9 RDW-15.9* Plt ___
___ 08:39PM BLOOD ESR-50*
___ 08:39PM BLOOD ___ PTT-31.2 ___
___ 08:20PM BLOOD ___ PTT-32.8 ___
___ 07:30AM BLOOD Glucose-99 UreaN-40* Creat-12.0* Na-136 
K-4.7 Cl-90* HCO3-35* AnGap-16
___ 06:25AM BLOOD Glucose-92 UreaN-36* Creat-12.9*# Na-134 
K-5.0 Cl-91* HCO3-28 AnGap-20
___ 05:15AM BLOOD Glucose-91 UreaN-33* Creat-10.5*# Na-138 
K-4.4 Cl-94* HCO3-33* AnGap-15
___ 06:00AM BLOOD Glucose-93 UreaN-22* Creat-7.9*# Na-138 
K-4.9 Cl-95* HCO3-33* AnGap-15
___ 06:43AM BLOOD Glucose-92 UreaN-44* Creat-12.2*# Na-138 
K-5.7* Cl-97 HCO3-31 AnGap-16
___ 06:10AM BLOOD Glucose-85 UreaN-32* Creat-9.9* Na-141 
K-4.8 Cl-100 HCO3-31 AnGap-15
___ 08:39PM BLOOD Glucose-82 UreaN-26* Creat-9.0*# Na-139 
K-4.9 Cl-96 HCO3-34* AnGap-14
___ 06:25AM BLOOD Calcium-10.7* Phos-7.9* Mg-2.7*
___ 06:00AM BLOOD Calcium-9.8 Phos-7.2* Mg-2.3
___ 06:10AM BLOOD Calcium-10.2 Phos-5.9* Mg-2.5
___ 08:39PM BLOOD CRP-17.7*
___ 07:30AM BLOOD Vanco-19.2
___ 06:22AM BLOOD Vanco-17.6
___ 06:43AM BLOOD Vanco-7.9*
___ 07:49AM BLOOD Lactate-1.6
___ 08:43PM BLOOD Lactate-2.4*

___ TEE: No atrial septal defect is seen by 2D or color 
Doppler. Overall left ventricular systolic function is normal 
(LVEF>55%). There are simple atheroma in the descending thoracic 
aorta at 35 cm. There are three aortic valve leaflets. The 
aortic valve leaflets are moderately thickened. No masses or 
vegetations are seen on the aortic valve. Trace aortic 
regurgitation is seen. No mass or vegetation is seen on the 
mitral valve. Mild (1+)ecentric mitral regurgitation is seen. No 
masses or vegetations are seen on the tricuspid valve, but 
cannot be fully excluded due to suboptimal image quality. There 
is no pericardial effusion. Impression: no vegetations seen  

___ Head CT w/o contrast: No hemorrhage, large territorial 
infarction, edema, mass, or shift of normally midline structures 
is present. Periventricular hyperdensities in the bilateral 
frontal lobes may represent acute infarcts or dilated 
___ spaces. The ventricles and sulci are normal in 
size and appearance. The basal cisterns are widely patent. 
Paranasal sinuses and mastoid air cells are well aerated. 
IMPRESSION: No acute intracranial process. 

___ CT T and L spine w/o contrast: 1. Destructive disc space 
changes at the L5-S1 disc space, endplate sclerosis and anterior 
osteophyte formation suggest that these are chronic changes from 
prior osteomyelitis. Comparison with prior imaging may be 
helpful. MRI is a more sensitive test for acute osteomyelitis. 
If the patient has a contraindication, a three-phased bone scan 
may be obtained.
___ CT pelvis w/ contrast: 1. The findings are in keeping 
with changes related chronic osteomyelitis/discitis at L5-S1. 
2. Grade 1 retrolisthesis of L5 on S1. 3. Moderate degenerative 
changes at the femoroacetabular joints. 4. No CT evidence of 
acute osteomyelitis or fracture. 
___ TTE: The left atrium is elongated. There is mild 
symmetric left ventricular hypertrophy. The left ventricular 
cavity size is normal. Overall left ventricular systolic 
function is normal (LVEF>55%). Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets are 
mildly thickened (?#). No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. There is borderline pulmonary artery systolic 
hypertension. There is a very small pericardial effusion. There 
are no echocardiographic signs of tamponade. 
No vegetation seen (cannot definitively exclude).
___ ECG: Rate 78, Sinus rhythm. Left axis deviation. Poor R 
wave progression, probably a normal variant. Non-specific ST-T 
wave changes, particularly in leads V4-V6. No previous tracing 
available for comparison.  
___ CXR: No acute intrathoracic process with an 8-mm nodule 
in the left base for with shallow obliques or non-emergent CT is 
recommended further evaluation.  
___ Xray pelvis: No fracture, dislocation, or definite 
radiographic evidence of acute steomyelitis, although please 
note evaluation of the inferior sacrum and coccyx is not 
optimal. If clinical concern is high, please note that MRI is 
more sensitive. 

 

 
Brief Hospital Course:
Reason for Admission: low grade fever and chills at dialysis. 

___ yo M w/ h/o ESRD ___ to PCKD, on dialysis and recent 
admission for E. coli bacteremia who presented with chills and 
low grade fevers at dialysis session while on outpatient 
antibiotic (ceftazidime) regimen, now on vanc (___) and zosyn 
(___) with no growth in blood cultures to date. 
.
Active Issues:
# Low grade fevers- Patient was admitted for a temperature of 
99.8 at dialysis in the ___ week of treatment for e.coli 
bacteremia. Patient has been afebrile throughout admission and 
cultures drawn in the hospital had no growth.  Additionally 
cultures from ___ Dialysis unit from 
48hrs, 4 days and 7 days prior to admission had no growth.  
Because of this, it was felt that the patient's line could be 
left in place.  During admission, patient was treated with 
vancomycin (___) and zosyn (___). Patient had a history 
of osteomyelitis and endocarditis in ___, so these were 
evaluated with a TTE, TEE (requiring conscious sedation) and a 
CT spine which did not show evidence of current endocarditis or 
osteomyelitis. ID followed this patient throughout the admission 
and felt that given lack of fevers, negative blood blood 
cultures, and no obvious source, they felt he could go back to 
prison without antibiotics.
.  
# ESRD: Pt gets MWF dialysis, which was continued throughout the 
admission. Renal transplant service was made aware of patient's 
admission, as they are planning to create a brachiocephalic 
fistula for dialysis. Pt is on transplant list, transplant 
surgery elected to defer surgery while patient is being worked 
up for infection.  Continued home sevelamer, doxercalciferol and 
given lenient renal diet (per patient insistence) and was fluid 
restricted (1L/day). Patient will be seen by trasnplant shortly 
after discharge.
.  
# Joint pains: Pt w/ chronic pain of back, as well as L ankle 
and L great toe, which he attributes to gout. Patient remained 
on allopurinol during admission. Was not started on colchicine, 
and renal fellow recommended against this medication in ESRD 
patients. Ortho consult felt his back pain may be secondary to 
sacroiliitis. A pelvic xray did not show any fracture, 
dislocation, or acute osteo. A CT spine of his back did not show 
signs concerning for osteomyelitis either. Patient was continued 
on his home regimen of MS contin 30mg BID for chronic pain as 
well as started on NSAIDs for management of pain. Additonally 
complaining of locked DIP and PIP joints bilaterally, which was 
not actively assessed as an inpatient. Patient has outpatient 
follow up with orthopedic surgery.
.
# Hypertension: Patient's blood pressure ranged from the 
120s-140s in the hours after dialysis, to the 160s-190s in the 
day and a half leading up to the next dialysis session.  Patient 
c/o frequent HAs with elevated pressures and had an episode of 
vomitting with a BP of 177/90. During this time, pt had no 
papiledema or AMS. A CT head was negative for intracranial 
process and HA improved with hydralazine. Patient required 
several additional doses of hydralazine and lisinopril, and on 
the day prior to discharge, his standing lisinopril was 
increased from 5mg to 10mg PO daily with improved BPs 
(140s/80s). 
.  
Chronic Issues:
# Hepatitis C: Chronic hep C with prior interferon treatment. He 
is not currently being treated.  
- defer to outpatient management  
.  
# Anemia: Hct ranged from ___ throughout admission, baseline 
appears to be around 28. Secondary to chronic renal disease.  
Stable. Epo was held during admission for concern of possible 
history of parathyroid cancer. We were not able to locate 
records from his operation (only were able to determine from 
___ that it occurred in ___ in ___, 
___ prior to discharge.  After further discussion with 
nephrology, it was not felt that this distant and questionable 
history of cnacer should be a contraindication to epo so they 
were going to give instructions to resume epo in their sign-out 
to the patient's local hemodialysis center.
.  
# Lung nodule: 8 mm nodule in left base, new from prior studies. 
Will need follow up with non-emergent chest CT scan for further 
characterization as an outpatient.
.
Transitional Issues: Patient is incarcerated and gets his care 
at ___. Do not ___ any transitional issues.
 
Medications on Admission:
1. amitriptyline 25 mg PO BID  
2. docusate sodium 100 mg PO BID  
3. doxercalciferol 5 mcg PO 3X/WEEK (___).  
4. metoprolol tartrate 100 mg PO BID  
5. ropinirole 2.5 mg PO QPM  
6. sevelamer carbonate 2400 mg PO TID W/MEALS  
7. ceftazidime 1 gram Recon Soln Sig: One (1) Recon Soln  
Injection QHD (each hemodialysis): 8 more doses. LAST DAY of  
therapy, ___.  
8. diphenhydramine HCl 50 PO q6hr prn  
9. MS ___ 30 mg ER PO daily  
10. allopurinol ___ mg PO MWF after dialysis.  
11. lisinopril 5 mg PO daily 
 
Discharge Medications:
1. amitriptyline 25 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. morphine 30 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO Q12H (every 12 hours).  
5. ropinirole 1 mg Tablet Sig: 2.5 Tablets PO QPM (once a day 
(in the evening)).  
6. sevelamer carbonate 800 mg Tablet Sig: Three (3) Tablet PO 
TID W/MEALS (3 TIMES A DAY WITH MEALS).  
7. metoprolol tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).  
8. allopurinol ___ mg Tablet Sig: One (1) Tablet PO MWF after 
dialysis.  
9. doxercalciferol 0.5 mcg Capsule Sig: One (1) Capsule PO MWF.  

10. diphenhydramine HCl 50 mg Tablet Sig: One (1) Tablet PO Q6hr 
PRN as needed for allergy symptoms.  
11. ibuprofen 400 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for pain: please take with food.  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Final Diagnosis:
Low grade fever

Secondary:
1. Polycystic kidney disease for ___ years.  
2. Hypertension for ___ years.  
3. History of hepatitis C. s/p interferon treatment.  
4. History of nephrectomy in ___ for stones.  
5. History of bladder stretching in ___ in ___ and ___.  
6. History of parathyroidectomy.  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you were having low 
grade fevers during your dialysis session.  You were being 
treated for a bacteria in your blood at your outpatient dialysis 
unit for the past 2 weeks, and so we were worried that the 
antibiotics you were on were not treating your infection.  While 
you were in the hospital, we gave you 2 strong antibiotics.  You 
did not have a fever in the hospital and we never found any 
bacteria growing in your blood.  The blood drawn at your 
dialysis unit also never had any bacteria growing in it. We did 
some imaging of your back and heart because we were concerned 
that you may have an infection in either of these areas, however 
there was no evidence of infection on these studies.  Because 
there is not evidence that you are still infected, we have 
stopped your antibiotics.  It is common to have low grade fevers 
while getting dialysis, so this may be a chronic event for you. 
If you remain afebrile over the next week (with a temperature 
not greater than 100.4F), you should be able to have a fistula 
or graft placed soon.  We have made an appointment with your 
transplant surgeon, Dr. ___, for next week (see 
details below), so that you will have close follow up and so the 
procedure will be done as soon as possible.

You were noted to have a lung nodule of unknown significance on 
CXR. You should follow up with your PCP and should be scheduled 
for an outpatient Chest CT to follow this.

Please continue your home medication as prescribed.  You no 
longer need to take Ceftazidime, the antibiotic you were getting 
at dialysis.

The following changes have been made to your medications:
- please INCREASE lisinopril to 10 mg daily
- please START ibuprofen 400 mg every 8 hours, if this isn't 
managing your pain, you can increase to 600 or 800 mg every 8 
hours.  Please be sure to take ibuprofen with food, do not take 
it on an empty stomach.
- please STOP taking ceftazidime.  There is no active evidence 
of infection, so you do not need any antibiotics right now.

The rest of your medications have not changed.  Please continue 
to take them as originally prescribed.
 
Followup Instructions:
___